US07049310B2
b) (E)-N-(1-Methyl-1H-indol-3-ylmethyl)-N-methyl-3-(6-amino-7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide
To a suspension of (E)-N-(1-methyl-1H-indol-3-ylmethyl)-N-methyl-3-[6-(benzhydrylideneamino)-7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl]acrylamide (0.5 g, 0.9 mmole) in dioxane (15 mL) was added 1 N HCl (10 mL) with stirring at RT. After approximately 5 min the suspension cleared up then gradually reformed. After stirring for 1 h the reaction was neutralized with 1 N NaOH (10 mL) and concentrated to near dryness under vacuum. The resulting suspension was diluted with H2O (20 mL) and filtered, and the solid was rinsed with cold H2O and dried under vacuum. The slightly pinkish solid was triturated with Et2O, filtered, and dried under vacuum to give the title compound (248 mg, 71%) as an off-white solid: MS (ES) m/e 390.4 (M+H)+.

reactant | (E)-N-(1-methyl-1H-indol-3-ylmethyl)-N-methyl-3-[6-(benzhydrylideneamino)-7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl]acrylamide | 0.9 mmole, 0.5 g | CN1C=C(C2=CC=CC=C12)CN(C(\C=C\C=1C=NC=2NC(C(CC2C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)=O)=O)C | C35H31N5O2
reactant | HCl | 1 N, 10 mL | Cl | ClH
reactant | NaOH | 1 N, 10 mL | [OH-].[Na+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | (E)-N-(1-Methyl-1H-indol-3-ylmethyl)-N-methyl-3-(6-amino-7-oxo-5,6,7,8-tetrahydro-1,8-naphthyridin-3-yl)acrylamide | 248 mg, 71% | CN1C=C(C2=CC=CC=C12)CN(C(\C=C\C=1C=NC=2NC(C(CC2C1)N)=O)=O)C | C22H23N5O2
